US04612321
In 300 ml of anhydrous tetrahydrofuran was dissolved 33.2 ml of diisopropylamine, and the solution was cooled to -78° C., to which was added dropwise, while stirring, 148 ml of hexane solution of n-butyl lithium (1.6 M). The mixture was stirred for further 10 minutes at the same temperature, followed by dropwise addition of 20 g of β-picoline. The temperature was then raised up to -10°-0° C. and the mixture was stirred for 20 minutes, to which was added dropwise 19.4 g of ethyl p-anisole dissolved in 40 ml of anhydrous tetrahydrofuran. Then, the mixture was stirred for one hour at room temperature, followed by addition of about 100 ml of water. The organic solvent was evaporated off, and the concentrated solution was subjected to extraction with ethyl acetate. The extract solution was washed with water and dried on magnesium sulfate, followed by crystalliation from a mixture of ethyl acetate-isopropylether to give 20.8 g (yield: 85%) of 1-(4-methoxyphenyl)-2-(3-pyridyl)-ethanone, m.p. 71°-72° C.

reactant | hexane | 148 ml | CCCCCC | C6H14
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | β-picoline | 20 g | N1=CC(=CC=C1)C | C6H7N
reactant | water | about 100 ml | O | H2O
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | diisopropylamine | 33.2 ml | C(C)(C)NC(C)C | C6H15N
product | 1-(4-methoxyphenyl)-2-(3-pyridyl)-ethanone | 20.8 g, yield: 85% | COC1=CC=C(C=C1)C(CC=1C=NC=CC1)=O | C14H13NO2
